* DPT-PFC V=425 I=94 Rgoff=4.7 Lloop=7e-9 snub=10/3.3e-10 clamp=1
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 425
CDC bus 0 100u ic=425
LLP bus kd 7e-9
DFW sw kd JBS1200_40
RSN sw nsn 10
CSN nsn 0 3.3e-10
DCL sw clp JBS1200_40
CCL clp bus 1.0000000000000001e-7 ic=0
RCL clp bus 470
LLD kd sw 0.000042 ic=94
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC750_10R
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 18 4e-7 18 4.05e-7 -3 0.0000019 -3 0.000001905 18 0.0000027 18 0.000002705 -3)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 4.7
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.2n 0.0000032999999999999997 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-pfc-30kw-L7-clamped.out v(d,ks) v(g,ks) i(VSNS) v(sw)
quit
.endc
.end